US08211513B2
72.9 g (0.16 mol) of bismuth(III) bromide are initially introduced in 50 ml of toluene at −10° C., and a solution of 50.0 g (0.25 mol) of 4-bromo-3-fluorobenzaldehyde in 250 ml of toluene is added dropwise. A solution of 27.0 g (0.27 mol) of 2-ethylbut-3-en-1-ol in 50 ml of toluene is metered in at this temperature, and the mixture is stirred at 10° C. for 2 h. Dilute hydrochloric acid is added to the batch, and the organic phase is separated off. The aqueous phase is extracted with toluene, and the combined organic phases are washed successively with water, saturated sodium hydrogen-carbonate solution and saturated sodium chloride solution. The solution is dried using sodium sulfate and concentrated to dryness. The crude product is purified by column chromatography (SiO2, n-heptane:toluene=2:1), giving 4-bromo-2-(4-bromo-3-fluorophenyl)-5-ethyltetrahydropyran as a colourless oil.

reactant | bismuth(III) bromide | 0.16 mol, 72.9 g | [Bi](Br)(Br)Br
reactant | 4-bromo-3-fluorobenzaldehyde | 0.25 mol, 50.0 g | BrC1=C(C=C(C=O)C=C1)F | C7H4BrFO
reactant | 2-ethylbut-3-en-1-ol | 0.27 mol, 27.0 g | C(C)C(CO)C=C | C6H12O
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4-bromo-2-(4-bromo-3-fluorophenyl)-5-ethyltetrahydropyran | BrC1CC(OCC1CC)C1=CC(=C(C=C1)Br)F | C13H15Br2FO
